.title KiCad schematic
v1 GND Input sine
R2 GND Input 10k
X1 Net-_C4-Pad1_ Net-_R1-Pad2_ Input GND Net-_C4-Pad2_ Vs Output Vs TBA820_5
C3 Net-_C3-Pad1_ GND 0.22u
R3 Net-_C3-Pad1_ Net-_C4-Pad2_ 1k
U1 Input plot_v1
R1 Net-_C1-Pad2_ Net-_R1-Pad2_ 120
C1 GND Net-_C1-Pad2_ 100u
C6 Net-_C4-Pad2_ Output 220u
U3 Output plot_v1
R4 Output Vs 4k
C4 Net-_C4-Pad1_ Net-_C4-Pad2_ 330p
C5 Vs GND 0.1u
C2 Vs GND 100u
U2 Vs plot_v1
v2 Vs GND DC
.end
