.title kicad schematic

.include tba820_5.sub
v1 gnd input sine(0 0.05 1000 0 0)
r2 gnd input 10k
x1 net-_c4-pad1_ net-_r1-pad2_ input gnd net-_c4-pad2_ vs output vs tba820_5
c3 net-_c3-pad1_ gnd 0.22u
r3 net-_c3-pad1_ net-_c4-pad2_ 1k
* u1 input plot_v1
r1 net-_c1-pad2_ net-_r1-pad2_ 120
c1 gnd net-_c1-pad2_ 100u
c6 net-_c4-pad2_ output 220u
* u3 output plot_v1
r4 output vs 4k
c4 net-_c4-pad1_ net-_c4-pad2_ 330p
c5 vs gnd 0.1u
c2 vs gnd 100u
* u2 vs plot_v1
v2 vs gnd  dc 9
.tran 100e-06 15e-03 10e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(input)
plot v(output)
plot v(vs)
.endc
.end
