.title kicad schematic

.include IC_NCV33078.sub
r1 out gnd 600
* u1 out plot_v1
r2 net-_r2-pad1_ out 600k
* u2 in2 plot_v1
r3 in2 net-_r2-pad1_ 400k
v3 gnd net-_x1-pad4_  dc 15
v2 in1 gnd  dc 1
x1 out net-_r2-pad1_ in1 net-_x1-pad4_ unconnected-_x1-pad5_ unconnected-_x1-pad6_ unconnected-_x1-pad7_ net-_x1-pad8_ IC_NCV33078
v1 in2 gnd  dc -1
* u3 in1 plot_v1
v4 net-_x1-pad8_ gnd  dc -15
.tran 1e-00 5e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in2)
plot v(in1)
.endc
.end
