.title kicad schematic

.include IC_NE592.sub
r3 net-_r3-pad1_ net-_r3-pad2_ 51
* u2 out1 plot_v1
r4 out2 out1 2k
* u3 out2 plot_v1
* u4 in1 plot_v1
r5 net-_r3-pad2_ in1 12k
v4 gnd in1 sine(0 1 1000 0 0)
v3 net-_x1-pad10_ gnd  dc 6
* u1 in2 plot_v1
v1 in2 gnd sine(0 1 1000 0 0)
r1 net-_r1-pad1_ in2 12k
v2 net-_x1-pad5_ gnd  dc -6
r2 net-_r2-pad1_ net-_r1-pad1_ 51
x1 net-_r2-pad1_ unconnected-_x1-pad2_ unconnected-_x1-pad3_ unconnected-_x1-pad4_ net-_x1-pad5_ unconnected-_x1-pad6_ out1 out2 unconnected-_x1-pad9_ net-_x1-pad10_ unconnected-_x1-pad11_ unconnected-_x1-pad12_ unconnected-_x1-pad13_ net-_r3-pad1_ IC_NE592
.dc V1 0e-00 0.01e-00 0.00001e-00 V4 0e-00 0.01e-00 0.00001e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out1)
plot v(out2)
plot v(in1)
plot v(in2)
.endc
.end
