.title kicad schematic

.include IC_REF02.sub
c2 output gnd 0.1u
* u2 output plot_v1
* u1 input plot_v1
v1 input gnd  dc 15
x1 net-_x1-pad1_ input unconnected-_x1-pad3_ gnd unconnected-_x1-pad5_ output net-_x1-pad7_ net-_x1-pad8_ IC_REF02
c1 input gnd 0.1u
.tran 10e-03 20e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(output)
plot v(input)
.endc
.end
