.title kicad schematic

.include IC_LM329.sub
v1 in gnd  dc 12
* u2 in plot_v1
r1 out in 6.8k
* u1 out plot_v1
x1 out gnd IC_LM329
.tran 10e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
