.title kicad schematic

.include CA3018.sub
x1 unconnected-_x1-pad1_ unconnected-_x1-pad2_ unconnected-_x1-pad3_ unconnected-_x1-pad4_ unconnected-_x1-pad5_ inp gnd net-_r2-pad1_ unconnected-_x1-pad9_ unconnected-_x1-pad10_ unconnected-_x1-pad11_ unconnected-_x1-pad12_ CA3018
r2 net-_r2-pad1_ net-_r2-pad2_ 1k
v2 net-_r2-pad2_ gnd  dc 12
v1 net-_r3-pad2_ gnd sine(0 5 50 0 0)
r3 inp net-_r3-pad2_ 100k
* u1 inp plot_v1
r1 gnd inp 100k
.tran 5e-03 50e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(inp)
.endc
.end
