.title kicad schematic


.lib /home/fossee/ihp/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt

.control
pre_osdi /home/fossee/ihp/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/fossee/ihp/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
.endc



xm6 net-_m5-pad3_ net-_m1-pad1_ gnd gnd sg13_hv_nmos W=10u L=1u M=1
v3 net-_u1-pad~_ gnd pulse(3.3 0 10ns 100p 100p 10ns 40ns)
xm5 out net-_u2-pad~_ net-_m5-pad3_ gnd sg13_hv_nmos W=10u L=0.5u M=1
xm8 out net-_u1-pad~_ net-_m7-pad1_ net-_v1-pad1_ sg13_hv_pmos W=20u L=0.5u M=1
xm7 net-_m7-pad1_ net-_m3-pad1_ net-_v1-pad1_ net-_v1-pad1_ sg13_hv_pmos W=20u L=1u M=1
xm3 net-_m3-pad1_ net-_m1-pad1_ gnd gnd sg13_hv_nmos W=10u L=1u M=1
xm2 net-_m1-pad1_ net-_m1-pad1_ gnd gnd sg13_hv_nmos W=10u L=1u M=1
v1 net-_v1-pad1_ gnd  dc 3.3v
xm1 net-_m1-pad1_ net-_v2-pad1_ net-_v1-pad1_ net-_v1-pad1_ sg13_hv_pmos W=20u L=1u M=1
xm4 net-_m3-pad1_ net-_m3-pad1_ net-_v1-pad1_ net-_v1-pad1_ sg13_hv_pmos W=20u L=1u M=1
v2 net-_v2-pad1_ gnd  dc 2.7v
c2 out gnd 5p
r1 net-_c1-pad1_ out 1k
* u3 out plot_v1
c1 net-_c1-pad1_ gnd 50p
.ic v(out)=1.5
v4 net-_u2-pad~_ gnd pulse(0 3.3v 22ns 100p 100p 10n 40n)
* u2 net-_u2-pad~_ plot_v1
* u1 net-_u1-pad~_ plot_v1
.tran 2e-09 0.1e-06 0e-00 

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(net-_u1-pad~_)
plot v(out)
plot v(net-_u2-pad~_)
plot v(net-_c1-pad1_)
.endc
.end
