* /home/mallikarjuna/esim-workspace/d_source_testcircuit/d_source_testcircuit.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ d_source
* u2  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ out1 out2 out3 out4 dac_bridge_4
* u3  out1 plot_v1
* u4  out2 plot_v1
* u5  out3 plot_v1
* u6  out4 plot_v1
a1 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ] u1
a2 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ] [out1 out2 out3 out4 ] u2
* Schematic Name: d_source, NgSpice Name: d_source
.model u1 d_source(input_file="m_source.txt" input_load=1.0e-12 ) 
* Schematic Name: dac_bridge_4, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
.tran 100e-06 10e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out1)
plot v(out2)
plot v(out3)
plot v(out4)
.endc
.end
