* c:\fossee\esim\library\subcircuitlibrary\log_amplifier\log_amplifier.cir

.include lm_741.sub
.include NPN.lib
x1 ? /inp1 gnd /vneg ? net-_q1-pad3_ /vpos ? lm_741
x2 ? /inp2 gnd /vneg ? /vout /vpos ? lm_741
q1 /inp1 net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q2 /inp2 gnd net-_q1-pad3_ Q2N2222
r1  /vout net-_q1-pad2_ 3.2k
r2  net-_q1-pad2_ gnd 5k
c1  /vout /inp2 3.4u
* u1  /inp1 /nc /vout /vpos /vneg gnd /nc /inp2 port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
